US08710038B2
4-Formyl-3-hydroxyphenyl acetate:
To a solution of 4-formylbenzene-1,3-diyl diacetate (5.56 g, 25.08 mmol) in ethanol (20 mL) was added a solution of sodium hydroxide (1.00 g, 25.08 mmol) in water (12 mL). The reaction was stirred overnight at room temperature. The reaction was carefully neutralized with 2.0 N aqueous solution of hydrochloric acid (12.8 mL) at 0° C. and diluted with ethyl acetate (400 mL). The organic layer was washed with water (60 mL) and saturated aqueous sodium chloride (50 mL), dried over magnesium sulfate, filtered, and concentrated to afford, the product (2.01 g, 44% yield) as a gray solid: 1H NMR (400 MHz, d-MeOH): δ 9.90 (s, 1H), 7.68 (d, 1H), 6.80 (d, 1H), 6.75 (s, 1H), 4.82 (br s, 1H), 2.20 (s, 3H).

reactant | 4-formylbenzene-1,3-diyl diacetate | 25.08 mmol, 5.56 g | C(C)(=O)OC1=CC(=C(C=C1)C=O)OC(C)=O | C11H10O5
reactant | sodium hydroxide | 25.08 mmol, 1.00 g | [OH-].[Na+]
reactant | hydrochloric acid | 12.8 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 12 mL | O | H2O
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | 4-Formyl-3-hydroxyphenyl acetate | 2.01 g, 44% yield | C(C)(=O)OC1=CC(=C(C=C1)C=O)O | C9H8O4
